US04845118
1-Ethoxycarbonyl-2-(4-methoxy-2-picolylmercapto)-1H-thieno[3,4-d]imidazole
Under nitrogen, 1.4 g (5.0 mmol) of 2-(4-methoxy-2-picolylmercapto)-1H-thieno[3,4-d]imidazole were dissolved in 15 ml of anhydrous dimethylformamide, and 270 mg (6 mmol) of a 60% suspension of NaH in oil were added in portions, and the mixture was heated at 30°-40° C. for 10 minutes. Now, at 25° C., 0.5 ml (5 mmol) of ethyl chloroformate (95%) was added, during which the temperature increases to about 36° C. 30 minutes later the crystalline product was filtered off with suction and washed twice with diethyl ether. Melting point 154°-156° C. (decomposition).

reactant | 2-(4-methoxy-2-picolylmercapto)-1H-thieno[3,4-d]imidazole | 5.0 mmol, 1.4 g | COC1=CC(=NC=C1)CSC1=NC=2C(N1)=CSC2 | C12H11N3OS2
reactant | NaH | [H-].[Na+]
reactant | ethyl chloroformate | 5 mmol, 0.5 ml | ClC(=O)OCC | C3H5ClO2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-Ethoxycarbonyl-2-(4-methoxy-2-picolylmercapto)-1H-thieno[3,4-d]imidazole | C(C)OC(=O)N1C(=NC=2C1=CSC2)SCC2=NC=CC(=C2)OC | C15H15N3O3S2
